US08648081B2
Stir a mixture of 3-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester (8.75 g, 18.9 mmol), NaOH (2.65 g, 66.1 mmol) and NH2OH—HCl (2.6 g, 37.8 mmol) in MeOH (60 mL) and water (15 mL) at room temperature for 2.5 hour. After removal of solvent under vacuum, dilute the residue with ice water (50 mL). Acidify the aqueous mixture with conc. HCl to pH=1 and extract the resultant mixture with EtOAc (50 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc 50:1) to afford 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester as an orange solid (8.1 g, 93.1%). MS (m/z): 478 (M+1).

reactant | 3-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester | 18.9 mmol, 8.75 g | COC(=O)C=1SC(=C2C1CCCC2)C(C=C(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl)=O | C20H15Cl2F3O3S
reactant | NaOH | 66.1 mmol, 2.65 g | [OH-].[Na+]
reactant | NH2OH—HCl | 37.8 mmol, 2.6 g | NO.Cl
solvent | MeOH | 60 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester | 8.1 g, 93.1% | COC(=O)C=1SC(=C2C1CCCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C20H16Cl2F3NO3S
